US07432256B2
a) 5-Bromo-2-(4-methyl-imidazol-1-yl)-benzonitrile
A mixture of 5-bromo-2-fluoro-benzonitrile (25.0 g, 125 mmol), 4-methylimidazole (12.5 g, 152 mmol), potassium carbonate (34.55 g, 250 mmol) in DMSO (500 mL) was stirred at 90° C. for 16 h. Water (1.5 L) was added and the resulting suspension was stirred with ice-bath cooling for 1 h. The precipitate was filtered, washed with water (0.5 L) and dried at 50° C. over KOH. The resulting raw material (25.6 g) was dissolved in boiling Ethyl acetate (300 ml). After addition of diisopropylether (300 ml) the solution was allowed to cool to room temperature. Filtration and drying afforded the title compound (19.35 g, 59%) as a white solid. Mp 166° C.

reactant | 5-bromo-2-fluoro-benzonitrile | 125 mmol, 25.0 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | 4-methylimidazole | 152 mmol, 12.5 g | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | 250 mmol, 34.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 1.5 L | O | H2O
solvent | DMSO | 500 mL | CS(=O)C | C2H6OS
product | 5-Bromo-2-(4-methyl-imidazol-1-yl)-benzonitrile | 19.35 g, 59% | BrC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C11H8BrN3
